US06838224B2
Synthesis of poly(p-(cyclohexyloxypropyl)oxystyrene/p-hydroxystyrene)
In 48 g of tetrahydrofuran was dissolved 12 g of poly(p-hydroxystyrene) having a weight average molecular weight (Mw) of 9,000 and a dispersity (Mw/Mn) of 1.05. A catalytic amount of p-toluenesulfonic acid was added. At 10° C., 4.2 g (0.030 mol) of cyclohexyl propenyl ether was added to the solution, which was stirred for 2 hours. The reaction mixture was precipitated from a water/isopropanol mixture, followed by filtration and drying. The end polymer was obtained in an amount of 12.0 g. On 1H-NMR analysis, the ratio of p-(cyclohexyloxypropyl)oxystyrene units to p-hydroxystyrene units was approximately 23.0:77.0.

reactant | poly(p-hydroxystyrene) | 12 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexyl propenyl ether | 0.030 mol, 4.2 g | C(=CC)OC1CCCCC1 | C9H16O
reactant | p-(cyclohexyloxypropyl)oxystyrene | C1(CCCCC1)OCCCOC1=CC=C(C=C)C=C1 | C17H24O2
reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
solvent | tetrahydrofuran | 48 g | O1CCCC1 | C4H8O
product | p-(cyclohexyloxypropyl)oxystyrene p-hydroxystyrene | C1(CCCCC1)OCCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C17H24O2.C8H8O/c1-2-15-9-11-17(12-10-15)19-14-6-13-18-16-7-4-3-5-8-16;1-2-7-3-5-8(9)6-4-7/h2,9-12,16H,1,3-8,13-14H2;2-6,9H,1H2
